US06800627B1
7-Chloro-1,2,3,4-tetrahydro-6-aza-pyrazino[1,2-a]indole
To a stirred suspension of lithium aluminium hydride (0.16 g, 4.2 mmol) in ether (20 mL) at 0° C. under Ar was added ethyl 6-chloro1-(cyanomethyl)-7-azaindole-2-carboxylate (0.45 g, 1.7 mmol). The mixture was heated under refux for 18 h, cooled to room temperature and treated with sodium sulfate decahydrate (2.8 g, 8.4 mmol). The mixture was stirred for 30 min, filtered through kieselguhr, concentrated in vacuo and purified by column chromatography [SiO2; ethyl acetate-methanol (9:1)] to give the product as a yellow oil (0.10 g, 27%). IR νmax (Nujol)/cm−1 3230, 2925, 2855, 1594, 1561, 1528, 1466, 1429, 1397, 1342, 1306, 1257, 1121, 1100, 1022, 948, 901, 874, 822, 810, 746, 546 and 509; NMR δH (400 MHz, CDCl3), 3.31 (2H, t, J 6 Hz), 4.15 (2H, t, J 6 Hz), 4.19(2H, s), 6.11 (1H, s), 7.03 (1H, d, J 8 Hz), 7.72 (1H, d, J 8 Hz).

reactant | lithium aluminium hydride | 4.2 mmol, 0.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 6-chloro1-(cyanomethyl)-7-azaindole-2-carboxylate | 1.7 mmol, 0.45 g | ClC1=CC=C2C=C(N(C2=N1)CC#N)C(=O)OCC | C12H10ClN3O2
reactant | sodium sulfate decahydrate | 8.4 mmol, 2.8 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 20 mL | CCOCC | C4H10O
product | 7-Chloro-1,2,3,4-tetrahydro-6-aza-pyrazino[1,2-a]indole | 0.10 g, 27% | ClC=1C=CC=2C=C3N(C2N1)CCNC3 | C10H10ClN3
